*
V1 N001 0 48
V2 0 N005 48
Q1 N001 N003 N002 0 NPN
R1 N002 N003 100
R2 0 N002 200
D1 N003 N001 BZX84C15L
Q2 N005 N004 N006 0 PNP
D2 N005 N004 BZX84C15L
R3 N006 N004 100
R4 N006 0 200
.model D D
.lib /Users/camerontribe/Library/Application Support/LTspice/lib/cmp/standard.dio
.model NPN NPN
.model PNP PNP
.lib /Users/camerontribe/Library/Application Support/LTspice/lib/cmp/standard.bjt
.model BZX84C15L D(Is=.6n Rs=.5 Cjo=110p nbv=6 bv=22 Ibv=1m Vpk=15 mfg=OnSemi type=Zener)
.op
* .step param R 50 1000 10
.backanno
.end
