*
R2 N002 N001 .82
R3 N002 0 4.9
C1 N006 0 4.7µ
C2 N001 Vin 14µ
R4 N004 0 2.79
R5 P001 0 3.1
L1 Vin N006 .15m Rser=.21
L3 N001 0 .45m Rser=.15
L5 N002 N004 .02m
L6 N006 P001 .4m
V1 Vin 0 AC 1
R6 N008 0 5
C5 N006 N007 22.4µ
L7 N007 N008 .02m Rser=.21
R1 N005 0 3.8
C3 N001 N003 22.4µ
L2 N003 N005 .4m Rser=.21
.ac dec 1000 1 50k
.backanno
.end
